US07405236B2
d] {6-[5-(4-Trifluoromethoxy-phenyl)-pent-4-ynyloxy]-indol-1-yl}-acetic acid ethyl ester
To an ice cold solution of (6-hydroxy-indol-1-yl)-acetic acid ethyl ester (100 mg, 455 μmol), 5-(4-trifluoromethoxy-phenyl)-pent-4-yn-1-ol (111 mg, 455 μmol) and tributylphosphine (160 μl, 546 μmol) in tetrahydrofuran (10 ml) was added N,N,N′,N′-tetramethyl azodicarboxamide (94 mg, 546 μmol). The cooling bath was removed and stirring continued for 14 h. The mixture was filtered over celite and the solvent removed under reduced pressure to give a yellow oil which was purified by column chromatography (silica gel, heptane/AcOEt) to obtain 65 mg (150 μmol, 32%) of the title compound as colorless oil.

reactant | (6-hydroxy-indol-1-yl)-acetic acid ethyl ester | 455 μmol, 100 mg | C(C)OC(CN1C=CC2=CC=C(C=C12)O)=O | C12H13NO3
reactant | 5-(4-trifluoromethoxy-phenyl)-pent-4-yn-1-ol | 455 μmol, 111 mg | FC(OC1=CC=C(C=C1)C#CCCCO)(F)F | C12H11F3O2
reactant | tributylphosphine | 546 μmol, 160 μl | C(CCC)P(CCCC)CCCC | C12H27P
reactant | N,N,N′,N′-tetramethyl azodicarboxamide | 546 μmol, 94 mg | CN(C(=O)N=NC(=O)N(C)C)C | C6H12N4O2
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | {6-[5-(4-Trifluoromethoxy-phenyl)-pent-4-ynyloxy]-indol-1-yl}-acetic acid ethyl ester | 150 μmol, 65 mg, 32% | C(C)OC(CN1C=CC2=CC=C(C=C12)OCCCC#CC1=CC=C(C=C1)OC(F)(F)F)=O | C24H22F3NO4
